US05017572
2-Hydroxy 6-methoxy acetophenone [(XX) ; R23 =OCH3 ]
A mixture of 25 mmoles of 2,6-dihydroxy acetophenone, 26 mmoles of methyl sulphate, 75 mmoles of K2CO3 and 60 ml of acetone are heated to reflux for 12 hours. Then the reaction medium is cooled, the mineral matter is separated by filtration and rinsed with dichloromethane. After evaporation of the organic phase and flash chromatography, the expected product is obtained in a practically quantitave way (mp =55° C).

reactant | 2,6-dihydroxy acetophenone | 25 mmoles | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | methyl sulphate | 26 mmoles | S(=O)(=O)(OC)[O-]
reactant | K2CO3 | 75 mmoles | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-Hydroxy 6-methoxy acetophenone | yield of 60 % | CC(=O)C1=C(C=CC=C1OC)O | C9H10O3
